US08623889B2
N-(7-cyclobutoxyisoquinolin-3-yl)cyclopropanecarboxamide
N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (150 mg, 0.51 mmol), copper(I) iodide (96 mg, 0.51 mmol), 1,10-phenanthroline (100 mg, 0.51 mmol) and cesium carbonate (216 mg, 0.62 mmol) were combined in stainless container, and cyclobutanol (3.0 mL) was added. The reaction mixture was stirred at 120-140° C. for 12 h under nitrogen. It was concentrated and purified by HPLC and TLC to give the product (17.1 mg, 12.0%). LCMS (ESI): RT (min)=1.15, M+H+=282.9, method=A. 1H NMR (400 MHz, DMSO-d6) 10.75 (s, 1H), 8.97 (s, 1H), 8.33 (s, 1H), 7.74 (d, J=9.0 Hz, 1H), 7.26 (d, J=6.8 Hz, 2H), 4.77 (t, J=6.8 Hz, 1H), 2.07-1.65 (m, 6H), 1.19 (s, 1H), 0.79-0.76 (m, 4H).

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 0.51 mmol, 150 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | 1,10-phenanthroline | 0.51 mmol, 100 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 0.62 mmol, 216 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclobutanol | 3.0 mL | C1(CCC1)O | C4H8O
catalyst | copper(I) iodide | 0.51 mmol, 96 mg | [Cu]I
product | N-(7-cyclobutoxyisoquinolin-3-yl)cyclopropanecarboxamide | 17.1 mg, 12.0% | C1(CCC1)OC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C17H18N2O2
